US07714009B2
[5-Chloro-2-[[7-(dipropylamino)-1-methyl-1H-benzimidazol-2-yl]amino]phenoxy]acetonitrile
To a solution of 48 mg (0.40 mmol) of 5-chloro-2-(7-dipropylamino-1-methyl-1H-benzimidazol-2-ylamino)phenol in 5 mL of tetrahydrofuran was added 114 mg (0.59 mmol) of cesium bicarbonate and 50 mg (0.41 mmol) of bromoacetonitrile and the reaction was stirred overnight at room temperature. Bromoacetonitrile, 200 mg (1.64 mmol), was added to the reaction and the mixture was stirred several hours at room temperature. Then 50 mg (0.36 mmol) of potassium carbonate was added to the reaction and it was stirred at room temperature overnight. The reaction was concentrated in vacuo to a residue that was dissolved in dichloromethane, washed with water, dried over sodium sulfate, filtered and concentrated in vacuo. The resulting residue was purified by flash chromatography eluting with a solution of 20% ethyl acetate/hexanes to give 64 mg (58%) of the title compound.

reactant | 5-chloro-2-(7-dipropylamino-1-methyl-1H-benzimidazol-2-ylamino)phenol | 0.40 mmol, 48 mg | ClC=1C=CC(=C(C1)O)NC1=NC2=C(N1C)C(=CC=C2)N(CCC)CCC | C20H25ClN4O
reactant | cesium bicarbonate | 0.59 mmol, 114 mg | C([O-])(O)=O.[Cs+]
reactant | bromoacetonitrile | 0.41 mmol, 50 mg | BrCC#N | C2H2BrN
reactant | potassium carbonate | 0.36 mmol, 50 mg | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | [5-Chloro-2-[[7-(dipropylamino)-1-methyl-1H-benzimidazol-2-yl]amino]phenoxy]acetonitrile | 64 mg, 58% | ClC=1C=CC(=C(OCC#N)C1)NC1=NC2=C(N1C)C(=CC=C2)N(CCC)CCC | C22H26ClN5O
